US06544976B1
(2S)-1-[(1,5-dimethylpyrazol-3-yl)carbonyl]azetidine-2-carboxylic acid
To a solution of (2S)-methyl-1-[(1,5-dimethylpyrazol-3-yl)carbonyl]azetidine-2-carboxylate (398.4 mg, 1.68 mmol) in methanol (12 mL) was added 1N LiOH in water (3.1 mL) at about 0° C. The mixture was stirred under argon at about 0° C. for about 30 minutes and then at about room temperature overnight. The pH was adjusted to about pH 1 by adding 1 N HCl and then the mixture was diluted with water and extracted with dichloromethane. The organic layers were washed with brine, dried over sodium sulfate and then concentrated to give 315.2 mg (84% yield) of the product as a white solid. 1H NMR (CDCl3) δ 2.32 (s, 3H); 2.49-3.89 (series of m, 2H); 3.84 (s, 3H); 4.40-4.71 (series of m, 2H); 5.20 (t, 1H, J=7.7); 6.57 (s, 1H).

reactant | (2S)-methyl-1-[(1,5-dimethylpyrazol-3-yl)carbonyl]azetidine-2-carboxylate | 1.68 mmol, 398.4 mg | COC(=O)[C@H]1N(CC1)C(=O)C1=NN(C(=C1)C)C | C11H15N3O3
reactant | LiOH | 1N | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 12 mL | CO | CH4O
solvent | water | 3.1 mL | O | H2O
product | (2S)-1-[(1,5-dimethylpyrazol-3-yl)carbonyl]azetidine-2-carboxylic acid | 315.2 mg, 84% yield | CN1N=C(C=C1C)C(=O)N1[C@@H](CC1)C(=O)O | C10H13N3O3
